US07435815B2
5-Isopropyl-pyridine-2-sulfonic acid (6-methoxy-pyridin-3-yl)-amide
prepared by reaction of 6-methoxy-pyridin-3-ylamine with 5-isopropyl-pyridine-2-sulfonyl chloride

reactant | 6-methoxy-pyridin-3-ylamine | COC1=CC=C(C=N1)N | C6H8N2O
reactant | 5-isopropyl-pyridine-2-sulfonyl chloride | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)Cl | C8H10ClNO2S
product | 5-Isopropyl-pyridine-2-sulfonic acid (6-methoxy-pyridin-3-yl)-amide | COC1=CC=C(C=N1)NS(=O)(=O)C1=NC=C(C=C1)C(C)C | C14H17N3O3S
